US06790854B2
(b) 3-(4-Diethylcarbamoylphenyl)-1-hydroxy-3-(3-methoxyphenyl)Propane
The resulting 3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)propionic acid was dissolved in dimethoxyethane (5.6 ml), added with triethylamine (0.12 ml) and isobutyl chloroformate (0.11 ml) under ice cooling and then the mixture was stirred at the same temperature for 30 minutes. Insoluble solids were removed by filtration, and then the filtrate was ice-cooled, added with a solution of sodium borohydride (40.7 mg) dissolved in water (1 ml) and further stirred at the same temperature for 10 minutes. The solvent was evaporated under reduced pressure and added with water (5 ml), and the reaction mixture was extracted twice with dichloromethane (5 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 215 mg of the title compound. Yield: 88% (for the two steps).

reactant | 3-(4-diethylcarbamoylphenyl)-3-(3-methoxyphenyl)propionic acid | C(C)N(C(=O)C1=CC=C(C=C1)C(CC(=O)O)C1=CC(=CC=C1)OC)CC | C21H25NO4
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.11 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dimethoxyethane | 5.6 ml | C(OC)COC | C4H10O2
product | 3-(4-Diethylcarbamoylphenyl)-1-hydroxy-3-(3-methoxyphenyl)Propane | 215 mg, Yield: 88% | C(C)N(C(=O)C1=CC=C(C=C1)C(CCO)C1=CC(=CC=C1)OC)CC | C21H27NO3
